US06197766B1
To an ice-cooled suspension of 26.0 g 5,6-dihydro-5-oxo-2-[3-(trifluoromethyl)phenyl]-N-[4-(trifluoromethyl)-phenyl]-4H-1,3,4-oxadiazine-4-carboxamide (prepared in B above) in 300 ml dichloromethane and 300 ml methanol was added 2.3 g sodium borohydride in portions. The resultant mixture was stirred for 45 min and then quenched with 200 ml 1M HCl and diluted with 1 l dichloromethane. The phases were separated and the organic phase was washed with 200 ml 1 M HCl and 100 ml saturated sodium bicarbonate, dried over sodium sulfate and concentrated under vacuum to give 5,6-dihydro-5-hydroxy-2-[3-(trifluoromethyl)phenyl]-N-[4-(trifluoro-methyl)phenyl]-4H-1,3,4-oxadiazine-4-carboxamide. The structure was confirmed by 1H NMR.

reactant | 5,6-dihydro-5-oxo-2-[3-(trifluoromethyl)phenyl]-N-[4-(trifluoromethyl)-phenyl]-4H-1,3,4-oxadiazine-4-carboxamide | 26.0 g | O=C1N(N=C(OC1)C1=CC(=CC=C1)C(F)(F)F)C(=O)NC1=CC=C(C=C1)C(F)(F)F | C18H11F6N3O3
reactant | sodium borohydride | 2.3 g | [BH4-].[Na+]
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | methanol | 300 ml | CO | CH4O
product | 5,6-dihydro-5-hydroxy-2-[3-(trifluoromethyl)phenyl]-N-[4-(trifluoro-methyl)phenyl]-4H-1,3,4-oxadiazine-4-carboxamide | OC1N(N=C(OC1)C1=CC(=CC=C1)C(F)(F)F)C(=O)NC1=CC=C(C=C1)C(F)(F)F | C18H13F6N3O3
